US06589951B1
Synthesis of 1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-difluoromethoxy-5-(tetrahydro-furan-3-yloxy)-phthalazine (Compound 15)
A solution under nitrogen of 3,5-dichloro-4-methyl-pyridine (457 mg, 2.82 mmoles) in dry DMF (10 ml) was portionwise added with 60% NaH (113 mg, 2.82 mmoles) and, after 1 hour at room temperature, was dropwise added, at a temperature <10° C., with 1-chloro-6-difluoromethoxy-5-(tetrahydrofuran-2-yloxy)-phthalazine (296 mg, 0.937 mmoles), obtained as described in example 53, in dry DMF (10 ml). After 2 hours at room temperature the mixture was poured into a 0.4M buffer at pH=7 (50 ml), extracted in ethyl acetate (2×50 ml) and the organic phase was washed with water, anhydrified and concentrated under vacuum. The residue was chromatographed (eluent:benzene/ethyl acetate 1:1, then ethyl acetate only), then crystallized from ethyl ether/benzene to give 180 mg of the title product (yield: 43.5%).

reactant | 3,5-dichloro-4-methyl-pyridine | 2.82 mmoles, 457 mg | ClC=1C=NC=C(C1C)Cl | C6H5Cl2N
reactant | NaH | 2.82 mmoles, 113 mg | [H-].[Na+]
reactant | 1-chloro-6-difluoromethoxy-5-(tetrahydrofuran-2-yloxy)-phthalazine | 0.937 mmoles, 296 mg | ClC1=NN=CC2=C(C(=CC=C12)OC(F)F)OC1OCCC1 | C13H11ClF2N2O3
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-difluoromethoxy-5-(tetrahydro-furan-3-yloxy)-phthalazine | 180 mg, yield: 43.5% | ClC=1C=NC=C(C1CC1=NN=CC2=C(C(=CC=C12)OC(F)F)OC1COCC1)Cl | C19H15Cl2F2N3O3
